US06245773B1
To a suspension of 10% palladium on carbon (0.2 g) in 30 mL of ethyl alcohol was added a solution of 1-benzyl-4-benzamido-piperidine (0.5 g, 1.79 mmol) in ethyl alcohol (10 mL). The resulting suspension was hydrogenated at 100 psi at 50° C. for 30 h after which it was filtered through a pad of celite and the solvent was removed in vacuo to obtain 0.34 g (100%) of 4-benzamidopiperidine as a white solid. It was used in the next step without purification.

reactant | 1-benzyl-4-benzamido-piperidine | 1.79 mmol, 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C19H22N2O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethyl alcohol | 30 mL | C(C)O | C2H6O
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | 4-benzamidopiperidine | 0.34 g, 100% | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
